US08383629B2
To a stirred solution of (±)-2-(trimethylsilyl)ethyl 7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate (23 mg, 0.056 mmol), ortho-(trifluoromethyl)cinnamic acid (16 mg, 0.074 mmol) and i-Pr2NEt (0.027 mL, 0.15 mmol) in CH2Cl2 (3 mL) was added solid HATU (28 mg, 0.0.074 mmol). The mixture was stirred overnight at rt and evaporated to leave a residue which was purified by preparative HPLC to afford (±)-(E)-2-(trimethylsilyl)ethyl 7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate (16.5 mg, 47%). LC-MS Method 1 tR=2.37 min, m/z=623, 625.

reactant | (±)-2-(trimethylsilyl)ethyl 7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate | 0.056 mmol, 23 mg | BrC=1C=CC=C2C(CC3(CCNCC3)C12)NC(OCC[Si](C)(C)C)=O | C19H29BrN2O2Si
reactant | ortho-(trifluoromethyl)cinnamic acid | 0.074 mmol, 16 mg | FC(C1=C(C=CC(=O)O)C=CC=C1)(F)F | C10H7F3O2
reactant | i-Pr2NEt | 0.15 mmol, 0.027 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (±)-(E)-2-(trimethylsilyl)ethyl 7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate | 16.5 mg, 47% | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)NC(OCC[Si](C)(C)C)=O | C29H34BrF3N2O3Si
